US08084469B2
5-[4-(Difluoromethoxy)phenyl]-1-[(1-oxidothiomorpholin-4-yl)carbonyl]piperidine-3-carboxylic acid [racemic cis isomer mixture]
According to General Method 4A, 2.7 g (6.3 mmol) of methyl 5-[4-(difluoromethoxy)phenyl]-1-[(1-oxidothiomorpholin-4-yl)carbonyl]piperidine-3-carboxylate were reacted with 7.1 g (63.3 mmol) of potassium tert-butoxide. The reaction mixture was concentrated under reduced pressure, and the residue was suspended in water and acidified with concentrated hydrochloric acid. The precipitate was filtered off, washed with water and dried under reduced pressure. Yield: 1.1 g (34% of theory)

reactant | methyl 5-[4-(difluoromethoxy)phenyl]-1-[(1-oxidothiomorpholin-4-yl)carbonyl]piperidine-3-carboxylate | 6.3 mmol, 2.7 g | FC(OC1=CC=C(C=C1)C1CC(CN(C1)C(=O)N1CCS(CC1)=O)C(=O)OC)F | C19H24F2N2O5S
reactant | potassium tert-butoxide | 63.3 mmol, 7.1 g | CC(C)([O-])C.[K+]
product | 5-[4-(Difluoromethoxy)phenyl]-1-[(1-oxidothiomorpholin-4-yl)carbonyl]piperidine-3-carboxylic acid | FC(OC1=CC=C(C=C1)C1CC(CN(C1)C(=O)N1CCS(CC1)=O)C(=O)O)F | C18H22F2N2O5S
